US06914062B2
1) 4-vinyl-2-fluoronitrobenzene
4-Chloro-2-fluoronitrobenzene (300 mg, 1.71 mmol), Pb2(dba)3 (236 mg, 0.228 mmol), tributyl (vinyl) tin (333 mg, 1.14 mmol), tri-2-furylphosphine (212 mg, 0.912 mmol) and lithium chloride (193 mg, 4.56 mmol) were added to methylpyrrolidinone (5 ml), and the mixture was stirred in a sealed tube at 120° C. for one hour. The mixture was diluted with chloroform-methanol, and filtered through a Celite Pad. After concentrating the filtrate, the concentrate was dissolved in ethyl acetate and washed with aqueous potassium fluoride. The organic layer was dried over magnesium sulfate, concentrated in vacuo, and purified by thin-layer silica gel chromatography (hexane-ethyl acetate, 5:1) to give the title compound (146 mg) as a pale yellow oil.

reactant | 4-Chloro-2-fluoronitrobenzene | 1.71 mmol, 300 mg | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | tributyl (vinyl) tin | 1.14 mmol, 333 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | tri-2-furylphosphine | 0.912 mmol, 212 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | lithium chloride | 4.56 mmol, 193 mg | [Cl-].[Li+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methylpyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 4-vinyl-2-fluoronitrobenzene | 146 mg | C(=C)C1=CC(=C(C=C1)[N+](=O)[O-])F | C8H6FNO2
